US07144883B2
1-[4-(3,4-Dihydroquinolin-1(2 H)-ylsulfonyl)-1-naphthyl]piperazine, hydrochloride
The final product was prepared according to Method F: A stirred solution of 1-[(4-fluoro-1-naphthyl)sulfonyl]-1,2,3,4-tetrahydroquinoline (50 mg, 0.15 mmol) and piperazine (80 mg, 0.9 mmol) in DMSO (1 ml) was heated at 95° C. over night. The reaction mixture was allowed to reach room temperature and was subsequently added dropwise into water. The formed solid was isolated, re-dissolved in MeOH and treated with an excess of 1M HCl in diethyl ether. Removal of the solvents in vacuo afforded the title compound (60 mg, 83%) as a white solid. 1H NMR (DMSO) δ 9.17 (br s, 2H), 8.23–8.06 (m, 3H), 7.61–7.55 (m, 1H), 7.48–7.38 (m, 2H), 7.29–7.23 (m, 1H), 7.19–7.12 (m, 1H), 7.09–6.98 (m, 2H), 3.78–3.71 (m, 2H), 3.44–3.30 (m, 8H), 2.42–2.32 (m, 2H), 1.57–1.48 (m, 2H); MS m/z (M+1) 408.

reactant | 1-[(4-fluoro-1-naphthyl)sulfonyl]-1,2,3,4-tetrahydroquinoline | 0.15 mmol, 50 mg | FC1=CC=C(C2=CC=CC=C12)S(=O)(=O)N1CCCC2=CC=CC=C12 | C19H16FNO2S
reactant | piperazine | 0.9 mmol, 80 mg | N1CCNCC1 | C4H10N2
reactant | water | O | H2O
reactant | HCl | 1M | Cl | ClH
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | MeOH | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-[4-(3,4-Dihydroquinolin-1(2 H)-ylsulfonyl)-1-naphthyl]piperazine, hydrochloride | 60 mg, 83% | Cl.N1(CCCC2=CC=CC=C12)S(=O)(=O)C1=CC=C(C2=CC=CC=C12)N1CCNCC1 | InChI=1S/C23H25N3O2S.ClH/c27-29(28,26-15-5-7-18-6-1-4-10-21(18)26)23-12-11-22(25-16-13-24-14-17-25)19-8-2-3-9-20(19)23;/h1-4,6,8-12,24H,5,7,13-17H2;1H
